US05389663
Using bis[(2R,3R)-3-(2,4-difluorophenyl)-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)-2-butyl]disulfide (1.62 g), chlorine (0.26 g), 1-[4-[2-(2,2,2-trifluoroethyl)-2,3-dihydro-3-oxo-4H-1,2,4-triazol-4-yl]phenyl]piperazine (2.4 g) and triethylamine (2.57 ml), substantially the same reaction as in Working Example 15 was allowed to proceed to give a crude product 1-[4-[2-(2,2,2-trifluoroethyl)-2,3-dihydro-3-oxo-4H-1,2,4-triazol-4-yl]phenyl]-4-[(2R,3R)-3-(2,4-difluorophenyl)-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)-2-butanesulfenyl]piperazine. This product was dissolved in acetone (50 ml), which was oxidized with a saturated aqueous solution of potassium permanganate (3.5 ml), followed by purification by means of a silica gel chromatography (eluent: hexane/ethyl acetate=1/2) to afford 1-[4-[2-(2,2,2-trifluoroethyl)-2,3-dihydro-3-oxo-4H-1,2,4-triazol-4-yl]phenyl]-4-[(2R,3R)-3-(2,4-difluorophenyl)-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)-2-butanesulfonyl]piperazine (Compound 44, 241 mg) as colorless powder.

reactant | bis[(2R,3R)-3-(2,4-difluorophenyl)-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)-2-butyl]disulfide | 1.62 g | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)SS[C@H](C)[C@@](CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)(CN1N=CN=C1)O | C24H24F4N6O2S2
reactant | chlorine | 0.26 g | ClCl | Cl2
reactant | 1-[4-[2-(2,2,2-trifluoroethyl)-2,3-dihydro-3-oxo-4H-1,2,4-triazol-4-yl]phenyl]piperazine | 2.4 g | FC(CN1N=CN(C1=O)C1=CC=C(C=C1)N1CCNCC1)(F)F | C14H16F3N5O
solvent | triethylamine | 2.57 ml | C(C)N(CC)CC | C6H15N
product | 1-[4-[2-(2,2,2-trifluoroethyl)-2,3-dihydro-3-oxo-4H-1,2,4-triazol-4-yl]phenyl]-4-[(2R,3R)-3-(2,4-difluorophenyl)-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)-2-butanesulfenyl]piperazine | FC(CN1N=CN(C1=O)C1=CC=C(C=C1)N1CCN(CC1)S[C@H](C)[C@@](CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)(F)F | C26H27F5N8O2S
